US05506256
D) (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[(isopropylsulfinyl)-acetyl]pyrrolidine
(2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[1-hydroxy-2(isopropylsulfinyl)ethyl]pyrrolidine (1.34 g) was subjected to DMSO-DCC oxidation as in Example 1-D) to give 502 mg of the title compound (See Table 3).

reactant | (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[1-hydroxy-2(isopropylsulfinyl)ethyl]pyrrolidine | 1.34 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(CS(=O)C(C)C)O)CCC1 | C22H32N2O5S
reactant | DMSO DCC | CS(=O)C.C1CCC(CC1)N=C=NC2CCCCC2
product | (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[(isopropylsulfinyl)-acetyl]pyrrolidine | 502 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(CS(=O)C(C)C)=O)CCC1 | C22H30N2O5S
